US06043337
A mixture of 2,2,3,3,4,4,5,5-octafluoro-1,6-hexanediol (7.86 g) was treated with pentafluoronitrobenzene (2.13 g) and triethylamine (1.39 mL,) in NMP (15 mL) at room temperature for 1 hr. The mixture was diluted with water, acidified with acetic acid, and extracted with ethyl ether. The extract was washed with water and brine; dried (MgSO4) and concentrated. Excess diol was removed by distillation and the residual oil purified by chromatography to give 4-(6-hydroxy-2,2,3,3,4,4,5,5-octafluorohexyloxy)tetrafluoronitrobenzene (3.06 g).

reactant | 2,2,3,3,4,4,5,5-octafluoro-1,6-hexanediol | 7.86 g | FC(CO)(C(C(C(CO)(F)F)(F)F)(F)F)F | C6H6F8O2
reactant | pentafluoronitrobenzene | 2.13 g | FC1=C(C(=C(C(=C1[N+](=O)[O-])F)F)F)F | C6F5NO2
reactant | triethylamine | 1.39 mL | C(C)N(CC)CC | C6H15N
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | NMP | 15 mL | CN1CCCC1=O | C5H9NO
solvent | water | O | H2O
product | 4-(6-hydroxy-2,2,3,3,4,4,5,5-octafluorohexyloxy)tetrafluoronitrobenzene | 3.06 g | OCC(C(C(C(COC1=C(C(=C(C(=C1F)F)[N+](=O)[O-])F)F)(F)F)(F)F)(F)F)(F)F | C12H5F12NO4
